US05025025
A solution of 0.7 g of ethyl 8-(p-chlorophenyl- sulfonamido)-3-[4-(3-pyridyl)-butyl]-octanoate, in a mixture of 50 mL of methanol and 100 mL of 1N aqueous NaOH is stirred at room temperature for 18 hours. The reaction mixture is then concentrated to remove the methanol. The product is neutralized with dilute aqueous hydrochloric acid, and the aqueous solution extracted with ethyl acetate. The ethyl acetate extract is dried over magnesium sulfate, filtered and concentrated to give 8-(p-chlorophenylsulfonamido)-3-[4-(3-pyridyl)-butyl]-octanoic acid, NMR (CDCl3): delta 7.77 (d,2H), 7.43 (d,2H), 2.9 (t,2H), 2.6 (t,2H).

reactant | ethyl 8-(p-chlorophenyl- sulfonamido)-3-[4-(3-pyridyl)-butyl]-octanoate | 0.7 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCCC(CC(=O)OCC)CCCCC=1C=NC=CC1 | C25H35ClN2O4S
solvent | methanol | 50 mL | CO | CH4O
solvent | NaOH | 1N, 100 mL | [OH-].[Na+]
product | 8-(p-chlorophenylsulfonamido)-3-[4-(3-pyridyl)-butyl]-octanoic acid | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCCC(CC(=O)O)CCCCC=1C=NC=CC1 | C23H31ClN2O4S
